US04022797
Reacting ethylendiamine with 2-chloromethylthiazole by the procedure of Example 34, then reacting the resulting N-(2-thiazolymethyl)ethylenediamine with N-cyano-N',S-dimethylisothiourea by the procedure of Example 3(a), gives N-cyano-N'-methyl-N"-[2-(2-thiazolylmethylamino)ethyl]guanidine. Hydrolysis of this compound by the procedure of Example 3(e) gives N-methyl-N'-[2-(2-thiazolylmethylamino)ethyl]guanidine trihydrochloride.

reactant | ethylendiamine | C(CN)N | C2H8N2
reactant | 2-chloromethylthiazole | ClCC=1SC=CN1 | C4H4ClNS
reactant | N-cyano-N',S-dimethylisothiourea | C(#N)NC(SC)=NC | C4H7N3S
product | N-cyano-N'-methyl-N"-[2-(2-thiazolylmethylamino)ethyl]guanidine | C(#N)NC(=NCCNCC=1SC=CN1)NC | C9H14N6S
